US07279481B2
N-[3-(2-hydroxyethyl)phenyl]-2,4-dimethyl-1,3-thiazole-5-carboxamide
2-(3-Aminophenyl)ethanol (1.202 g, 8.76 mmol) was added to a solution of 2,4-dimethyl-1,3-thiazole-5-carboxylic acid (1.652 g, 10.51 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.015 g, 10.51 mmol) and 1-hydroxybenzotriazole (1.420 g, 10.51 mmol) in dry DMF (20 mL). The mixture was stirred for 14 h then the DMF was removed under reduced pressure and the residue was partitioned between DCM and saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The crude compound was purified by flash chromatography on silica gel, eluting with ethyl acetate-cyclohexane (1:1 to 1:0) affording the title compound in 73% yield (1.772 g).

reactant | 2-(3-Aminophenyl)ethanol | 8.76 mmol, 1.202 g | NC=1C=C(C=CC1)CCO | C8H11NO
reactant | 2,4-dimethyl-1,3-thiazole-5-carboxylic acid | 10.51 mmol, 1.652 g | CC=1SC(=C(N1)C)C(=O)O | C6H7NO2S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 10.51 mmol, 2.015 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 10.51 mmol, 1.420 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-[3-(2-hydroxyethyl)phenyl]-2,4-dimethyl-1,3-thiazole-5-carboxamide | 73% yield | OCCC=1C=C(C=CC1)NC(=O)C1=C(N=C(S1)C)C | C14H16N2O2S
